US05807859
The process is performed as in Example 50 for the preparation of ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-valerate but starting with 0.48 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 25 ml of dimethylformamide, 0.33 g of sodium hydride, 0.28 ml of trimethylsilyl chloride and 0.1 g of trioxane. 0.27 g of 10-hydroxymethyl-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a pale yellow solid melting above 260° C. (Analysis, % calculated C: 67.41, H: 4.90, N: 15.72, O: 11.97, % found C: 67.4, H: 4.9, N: 15.7).

reactant | ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-valerate | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC(=O)OCC | C21H23N3O3
reactant | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.48 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | trimethylsilyl chloride | 0.28 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | trioxane | 0.1 g | O1OOCCC1 | C3H6O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 10-hydroxymethyl-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.27 g | OCC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C15H13N3O2
